Inverter Chain
.include ../models/22nm_HP.sp
.param x=5p
.param K=1.3
V1 vdd 0 DC 0.8
V2 vss 0 DC 0.0
        Vin in 0 PULSE(0.8 0 1n x x 10n 20n)

        .subckt inv in out vdd vss k=1 w_n=44n l_n=22n l_p=22n m_inv=1
        .param w_p='k*w_n' 
        M1 out in vdd vdd pmos W='w_p' L='l_p' m='m_inv'
        M2 out in vss vss nmos W='w_n' L='l_n' m='m_inv'
        .ends inv

        X0 in 1 vdd vss inv k='K' m_inv=1
X1 1 2 vdd vss inv k='k' m_inv=2.9299299402707484
X2 2 3 vdd vss inv k='k' m_inv=8.584489454894952
X3 3 4 vdd vss inv k='k' m_inv=25.151952675835233
X4 4 5 vdd vss inv k='k' m_inv=73.69345920120261
X5 5 6 vdd vss inv k='k' m_inv=215.9166725157244
X6 6 7 vdd vss inv k='k' m_inv=632.6207234074552
X7 7 8 vdd vss inv k='k' m_inv=1853.5343983472428
X8 8 9 vdd vss inv k='k' m_inv=5430.725929039315
X9 9 10 vdd vss inv k='k' m_inv=15911.646496896963
X10 10 out vdd vss inv  k='k' m_inv=46620.00947026258
C0 out 0 1e-11
.tran 0.1p 10n
.meas tran delay trig v(in) val=0.4 fall=1 targ v(out) val=0.4 rise=1

.option post=2 
.end

        
